US08466289B2
Synthesis of Intermediate potassium 3-(1,3-bis(benzyloxy)propan-2-yl)cyclobutane-1-sulfonate (I-15d)
Using the same reaction conditions, procedure and work up as described Intermediate I-25b (below), butyl 3-(1,3-bis(benzyloxy)propan-2-yl)cyclobutane-1-sulfonate (0.1 g, 0.22 mmol) was reacted with KSCN (24 mg, 0.24 mmol) and DME-water mixture (2 mL) to afford 0.07 g of the product (83% yield).

reactant | butyl 3-(1,3-bis(benzyloxy)propan-2-yl)cyclobutane-1-sulfonate | 0.22 mmol, 0.1 g | C(C1=CC=CC=C1)OCC(COCC1=CC=CC=C1)C1CC(C1)S(=O)(=O)OCCCC | C25H34O5S
reactant | KSCN | 0.24 mmol, 24 mg | C(#N)[S-].[K+]
solvent | DME water | 2 mL | COCCOC.O
product | potassium 3-(1,3-bis(benzyloxy)propan-2-yl)cyclobutane-1-sulfonate | 0.07 g, 83% yield | C(C1=CC=CC=C1)OCC(COCC1=CC=CC=C1)C1CC(C1)S(=O)(=O)[O-].[K+] | InChI=1S/C21H26O5S.K/c22-27(23,24)21-11-19(12-21)20(15-25-13-17-7-3-1-4-8-17)16-26-14-18-9-5-2-6-10-18;/h1-10,19-21H,11-16H2,(H,22,23,24);/q;+1/p-1
